US08975400B2
methyl 5-bromo-6-(3-(trifluoromethyl)phenoxy)nicotinate
The title compound was prepared by a procedure similar to that described for D4 starting from methyl 5-bromo-6-chloronicotinate and 3-(trifluoromethyl)phenol.

reactant | methyl 5-bromo-6-chloronicotinate | BrC=1C(=NC=C(C(=O)OC)C1)Cl | C7H5BrClNO2
reactant | 3-(trifluoromethyl)phenol | FC(C=1C=C(C=CC1)O)(F)F | C7H5F3O
product | methyl 5-bromo-6-(3-(trifluoromethyl)phenoxy)nicotinate | BrC=1C(=NC=C(C(=O)OC)C1)OC1=CC(=CC=C1)C(F)(F)F | C14H9BrF3NO3
